data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2476,2744,[CH3:18][NH:19][C:20](=[O:21])[C:22]([C:23]#[N:24])=[N+:25]([CH3:26])[C-:27]([C:28](=[O:29])[NH:30][CH3:31])[C:32](=[O:33])[O:34][CH3:35].[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]#[C:8][C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]2=[C:8]([C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:27]([C:28](=[O:29])[NH:30][CH3:31])([C:32](=[O:33])[O:34][CH3:35])[N:25]([CH3:26])[C:22]2([C:20]([NH:19][CH3:18])=[O:21])[C:23]#[N:24],water,298.15,19.67048054818727,-48.51607457784364
3654,4174,[CH3:10][O:11][C:12](=[O:13])[C:14]([CH3:15])=[NH+:16][CH-:17][C:18]#[N:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([CH3:15])[NH:16][CH:17]1[C:18]#[N:19],water,298.15,19.56153884060081,-18.908192018957216
782,845,[CH3:13][O:14][C:15](=[O:16])[c-:17]1[c:18](=[O:19])[o:20][n:21][n+:22]1[CH3:23].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]#[N:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]1([C:15]([O:14][CH3:13])=[O:16])[C:18](=[O:19])[O:20][N:21]2[N:22]1[CH3:23],water,298.15,43.8764018282897,21.45310205937795
1856,2058,[CH3:16][C:17](=[O:18])[C:19]#[N+:20][C-:21]([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]#[C:8][C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]2=[C:8]([C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:21]([CH3:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:20]=[C:19]2[C:17]([CH3:16])=[O:18],water,298.15,7.12525867232176,-65.05904623229621
1814,2009,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[C:21](=[O:22])[O:23][CH3:24])[C:25](=[O:26])[O:27][CH3:28].[CH3:1][C:2]1=[C:3]([F:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][C:2]12[C:3]([F:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:16]([C:17](=[O:18])[O:19][CH3:20])([C:21](=[O:22])[O:23][CH3:24])[O:15][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[C:25](=[O:26])[O:27][CH3:28],water,298.15,12.12641882825754,-46.911579646839726
625,685,[CH3:18][C-:19]([C:20]#[N:21])[N+:22]#[N:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[N:23]=[N:22][C:19]3([CH3:18])[C:20]#[N:21],water,298.15,22.901948305064263,-30.56967851656876
4635,5285,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23]([CH3:24])=[O:25]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:14]([C:12]([CH3:11])=[O:13])([C:23]([CH3:24])=[O:25])[N:15]=[C:16]2[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,15.4790642161793,-21.8899855158998
3751,4289,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[C:11]#[N+:12][C-:13]([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([O:8][CH3:7])=[O:10])=[N:12][C:13]1([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,21.552550124647883,-29.87846785708132
2060,2287,[CH3:15][O:16][C:17](=[O:18])[C:19](=[NH+:20][C-:21]([C:22]#[N:23])[C:24](=[O:25])[O:26][CH3:27])[C:28](=[O:29])[O:30][CH3:31].[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:21]([C:22]#[N:23])([C:24](=[O:25])[O:26][CH3:27])[NH:20][C:19]3([C:17]([O:16][CH3:15])=[O:18])[C:28](=[O:29])[O:30][CH3:31],water,298.15,12.961733044121926,-36.66947730549783
1267,1385,[CH3:10][O:11][C:12](=[O:13])[CH-:14][N+:15]([CH3:16])=[C:17]([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25].[CH3:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:17]([C:18](=[O:19])[O:20][CH3:21])([C:22](=[O:23])[O:24][CH3:25])[N:15]([CH3:16])[CH:14]3[C:12]([O:11][CH3:10])=[O:13],water,298.15,19.5971214925376,-44.22834960223259
3738,4275,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([N+:10]#[C:11][C:12]([CH3:13])=[O:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:10]=[C:11]1[C:12]([CH3:13])=[O:14],water,298.15,16.625663257259212,-36.907041419124994
